US06599902B2
Synthesis of 3-[1-{4-[3-((S)-2-Cyclopropylaminomethyl-pyrrolidin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid (100 mg, 0.19 mmol) and DIPEA (45 mg, 1.9 eq.) in DMF (2 mL) was stirred at rt for 30 mins. To the mixture was added HATU (85 mg, 1.2 eq.). After stirring for another 3 hours, to the mixture was added cyclopropyl-(S)-1-pyrrolidin-2-ylmethyl-amine (29 mg, 1.1 eq.). After stirring for 72 hours, the reaction was concentrated and purified on a silica gel column to give the titled compound as an orange solid.

reactant | 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid | 0.19 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CCC(=O)O)C | C25H22Cl2N2O5S
reactant | DIPEA | 45 mg, 1.9 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 85 mg, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropyl-(S)-1-pyrrolidin-2-ylmethyl-amine | 29 mg, 1.1 eq. | C1(CC1)NC[C@H]1NCCC1 | C8H16N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[1-{4-[3-((S)-2-Cyclopropylaminomethyl-pyrrolidin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | C1(CC1)NC[C@H]1N(CCC1)C(CCC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C33H36Cl2N4O4S
